US06972295B2
Step C 2-(2-Pyridyloxy)-2-methylbutanoic Acid
A mixture of benzyl 2-(2-pyridyloxy)-2-methylbutanoate (1.6 g, 5.5 mmol) and 10% palladium on carbon (50 mg) in 50 mL MeOH was degassed and filled with hydrogen using a balloon. After stirring at room temperature overnight, the reaction mixture was filtered through CELITE diatomaceous earth and washed with MeOH (20 mL), and the filtrate was concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 8.03 (dd, 1H), 7.64 (ddd, 1H), 6.89 (dd, 1H), 6.76 (dd, 1H), 2.14 (m, 1H), 1.94 (m, 1H), 1.64 (s, 3H), 0.99 (t, 3H). LC-MS: m/e 196 (M+H)+ (1.8 min).

reactant | benzyl 2-(2-pyridyloxy)-2-methylbutanoate | 5.5 mmol, 1.6 g | N1=C(C=CC=C1)OC(C(=O)OCC1=CC=CC=C1)(CC)C | C17H19NO3
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
product | 2-(2-Pyridyloxy)-2-methylbutanoic Acid | N1=C(C=CC=C1)OC(C(=O)O)(CC)C | C10H13NO3
